US04390541
The 4(1H)-quinolone-3-carboxylic acid (65.5 g) was stirred and heated in a flask set in a fluidised sand bath at 270° C., under nitrogen, until no more CO2 was evolved (about twenty minutes). The fused mass was allowed to cool and then dissolved in boiling ethanol (400 ml). The solution was treated with charcoal, and filtered. The filtrates were evaporated to dryness, the residue dissolved in boiling n-butanol (80 ml), the solution cooled, and an equal volume of diethyl ether then added. The cream solid was collected and dried to give 4(1H)-quinolone, m.p. 205° C.

reactant | 4(1H)-quinolone-3-carboxylic acid | 65.5 g | N1C=C(C(C2=CC=CC=C12)=O)C(=O)O | C10H7NO3
reactant | CO2 | C(=O)=O | CO2
reactant | charcoal | C | CH4
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | 4(1H)-quinolone | N1C=CC(C2=CC=CC=C12)=O | C9H7NO
